US04515980
Dimethylformamide (250 ml) was added to sodium hydride (obtained from 4.80 g of 50% oil dispersion after washing and drying) and the mixture cooled to 0°-5° C. 2-(4-Methoxy-2-methylphenylamino)benzoic acid (25.7 g) was then added, and the mixture was stirred at room temperature for 45 minutes and then cooled to 0°-5° C. To the latter mixture was added 13 ml of diethyl sulfate, and the reaction mixture was stirred overnight at room temperature and poured into a mixture of ether, acetic acid, water and ice. The mixture was extracted with ether and the ether extracts washed with 1N potassium hydroxide and dried over anhydrous magnesium sulfate. Removal of the ether and crystallization of the residue from isopropyl alcohol gave 12.2 g of ethyl 2-(4-methoxy-2-methylphenylamino)benzoate as a pale yellow solid, m.p. 42°-43° C.

reactant | Dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 4.80 g | [H-].[Na+]
reactant | 2-(4-Methoxy-2-methylphenylamino)benzoic acid | 25.7 g | COC1=CC(=C(C=C1)NC1=C(C(=O)O)C=CC=C1)C | C15H15NO3
reactant | diethyl sulfate | 13 ml | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | ethyl 2-(4-methoxy-2-methylphenylamino)benzoate | 12.2 g | COC1=CC(=C(C=C1)NC1=C(C(=O)OCC)C=CC=C1)C | C17H19NO3
